US07915263B2
(2) Synthesis of N-(1-tert-butyl-1H-pyrazol-5-yl)-6-vinylpyrazin-2-amine
A mixture of 65.04 g of N-(1-tert-butyl-1H-pyrazol-5-yl)-6-chloropyrazin-2-amine, 41.6 g of potassium vinyltrifluoroborate, 4.22 g of (1,1′-bis (diphenylphosphino)ferrocene)dichloropalladium(II) dichloromethane complex, 72 ml of triethylamine and 685 ml of 1-propanol was stirred at 110° C. overnight, followed by cooling down to room temperature and concentrated in vacuo. The obtained residue was diluted with ethyl acetate, and an insoluble matter was filtered off using Celite. The resulting ethyl acetate solution was washed with water, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The obtained residue was suspended in 100 ml of ethyl acetate, and 400 ml of diisopropylether was added to the mixture. The obtained precipitate was collected to give the title compound as a pale brown solid.

reactant | N-(1-tert-butyl-1H-pyrazol-5-yl)-6-chloropyrazin-2-amine | 65.04 g | C(C)(C)(C)N1N=CC=C1NC1=NC(=CN=C1)Cl | C11H14ClN5
reactant | potassium vinyltrifluoroborate | 41.6 g | C(=C)[B-](F)(F)F.[K+]
reactant | triethylamine | 72 ml | C(C)N(CC)CC | C6H15N
solvent | 1-propanol | 685 ml | C(CC)O | C3H8O
product | N-(1-tert-butyl-1H-pyrazol-5-yl)-6-vinylpyrazin-2-amine | C(C)(C)(C)N1N=CC=C1NC1=NC(=CN=C1)C=C | C13H17N5
